US07435823B2
Step (b) Preparation of N-[6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalen-1-yl]-2-fluoro-benzamide
To a solution of 6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalen-1-ylamine (Step a, 50 mg, 0.14 mmol) and NaHCO3 (38 mg, 0.45 mmol) in CH2Cl2 (1 mL), 2-fluorobenzoyl chloride (18 mL, 0.15 mmol) was added. The reaction was stirred at RT for 20 h. The mixture was taken up into CHCl3 and water, washed with brine, dried with Na2SO4, filtered and concentrated in vacuo. The title compound was purified by column chromatography using 0-100% of a 90:10:1 (CH2Cl2:MeOH:NH4OH) solution as the eluant. M+H 469.1, Calc'd for C28H21FN2O4-468.49.

reactant | 6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalen-1-ylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)N | C21H18N2O3
reactant | NaHCO3 | 0.45 mmol, 38 mg | C(=O)(O)[O-].[Na+]
reactant | 2-fluorobenzoyl chloride | 0.15 mmol, 18 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[6-(6,7-dimethoxy-quinolin-4-yloxy)-naphthalen-1-yl]-2-fluoro-benzamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)NC(C1=C(C=CC=C1)F)=O | C28H21FN2O4
